.SUBCKT LT176133  1  3  4  5  8
*
*********************
* power section
*********************
*
* pass transistor
QPWR 51 54 52 Q1
RBASE 54  84  28.1E3
*
* input dependent current limit
VSENS  8 52 DC 0
RSENS  68  0  1.0E3
FSENS 0 68 VSENS  1.0E-3
FCL1 4 60  VSENS  0.33
RCL1 60 4 10
DCL1 60 61 DX
VCL1 61 62 DC 0
ECL1 62 4  8 4  0.03
FCL2  90 4 VCL1 1.0
*
* temperature dependent dropout voltage
RDROP 51 55  RVD  1.06  
*
* quiescent current 
GQC  8  4  80  4  8.03E-6
GQCP  8  4  54  84  2.7E-5
*
* load dependent ground pin current, linear
* A - B - (A*C)
GGPC1 8 4  POLY(3) 68  0  42 0  46  4   0  2.1E-2  -0.22E-7   0  0  0  -8.8E-4    
GGPC2  4  45 POLY(1) 8  1  0.0E-3  1.0E-3
RGPC1 45 4 1.0E3
DGPC1 45 46 DX
RGPC2 46 4 1.0E5
*
* reverse input  protection
ERVP1  40 0 8 4 1.0
DRVP1 40 41 DX
RRVP1 41 42 1.0E3
DRVP2 42 0 DX
RRVP2 42 0 1.0E4
*
* reverse input current
DRVP3 43 8 DX
RRVP3 43 4 1.9E5
*
* reverse output protection
SROP1  55  1   1  8  SROP1
*
********************
* error amplifier
********************
*
RF  1  80   2.08E5
RG  80  4  1.22E5
*
GEA1 4 81  80  90  4.3
REA1 81 4 1.0E4
CP1 81  82 1.0E-3
RP1  82 4  50
*
CFEED 84  88 7.5E-9
RFEED 88 90  3.42E3
*
GEA2  4  84  81  4  1.0E-4
REA2  84  4  1.0E4
EEAP  85 4  41 0 1.0
DEAP 84 85 DX
DEAN 86 84 DX
VEAN 86 4  DC 1.4
*
**************************** 
* voltage reference
****************************
*
* temperature dependent 1.22V reference
IREF1 4 90 DC 1.22E-3
RREF1 90 4  RVR 1.0E3 
FLOAD 90 4  VSENS  7.45E-5
*
**************************** 
* noise voltage 
****************************
IR1 0 601 DC 1
IR2 0 602 DC 1
DR1 601 0 DRI
DR2 602 0 DRI
GR1 3  4  601 602  0.112
RR1  3  4  7.9E4
DR3 3 4 DX
DR4 4 3 DX
GR2 90 4  3 4  1.95E-3
*
***************************
* shutdown section
***************************
*
* shdn bias current
GSB 4 70 POLY(2) 42 0 5 4 0 0 0 0 1.33E-3
RSB 70 4 1.0E3
DSB 4 70 DAC 
GSHDN 5 4 70 4 1.25E-7
*
* schmitt trigger, trip points 0.65V / 0.8V
GSD1 4 71 72  5 1.0E-1
RSD1 71 4 1.0E4
CSD1 71 4 2.2E-9
DSDP2 71 73 DTT
VSDP2 73 4 DC 1.8
DSDN2 74 71 DTT
VSDN2 74 4  DC -1.8
GTV1 4 72 POLY(1)  71  4  7.24E-4   2.98E-5
RTV1 72 4 1.0E3
SSHDN  90  4   71  4  SHDN
*
***********************
* models used
***********************
.MODEL DX D IS=8.2592e-016  RS=0 XTI=1 CJO=0 IBV=1.0E-10 TT=0
.MODEL DIC D IS=8.0000E-013 BV=5.0 RS=0 XTI=0
.MODEL DAC D IS=8.0000E-013 BV=6.3 RS=0 XTI=0
.MODEL DTT D IS=8.0000E-016  RS=0 XTI=1 IBV=1.0E-10 TT=8.3E-6
.MODEL DRI D (IS=8.2592e-016 KF=3.2074e-019 RS=0 XTI=1 CJO=0 IBV=1.0E-10 TT=0)
*
.MODEL RVD RES (TC1=1.4E-3)
.MODEL RVR RES (TC1=-1.2E-5)
.MODEL REA RES (TC1=0.5E-3)
*
.MODEL SROP1  VSWITCH (RON=0.001  ROFF=1.0E8  VON=0.0  VOFF=0.1)
.MODEL SHDN  VSWITCH (RON=0.01  ROFF=1.0E8  VON=01.0   VOFF=-1.0)
*
.MODEL Q1 PNP IS=1.0E-015  BF=7500 XTI=0 NF=1.0

************************
*
.ENDS LT176133
